US06468998B1
Diphenylacetic acid (0.75 g) and (S)-3-amino-1-(2-phenylethyl)pyrrolidine (0.67 g) were dissolved in DMF (10 ml), and triethylamine (1.4 ml) was added thereto, which was followed by addition of diethyl cyanophosphate (0.67 ml) under ice-cooling. After completion of the reaction, the solvent was evaporated under reduced pressure. The obtained residue was dissolved in ethyl acetate, washed successively with an aqueous potassium carbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (chloroform:methanol=30:1). The obtained eluate was concentrated to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)diphenylacetamide (0.77 g). The obtained compound was dissolved in acetone (3 ml), and a solution of oxalic acid (0.18 g) in acetone (3 ml) was added thereto. The precipitated crystals were collected by filtration and washed with acetone to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)diphenylacetamide oxalate, melting point 191-192° C.

reactant | Diphenylacetic acid | 0.75 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | 0.67 g | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 0.67 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)diphenylacetamide | 0.77 g | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H28N2O
